US08466282B2
(5-methyl-2-oxo-1,3-dioxol-4-yl)methyl(3R,5S)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylate dihydrochloride
(3R,5S)-1-(tert-Butoxycarbonyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid (0.3 g) and 4-(hydroxymethyl)-5-methyl-1,3-dioxol-2-one (0.09 g) were dissolved in DMA (3.0 ml), toluenesulfonyl chloride (0.13 g), DMAP (0.014 g) and potassium carbonate (0.1 g) were added with stirring under ice-cooling, and the mixture was stirred for 6 hr under ice-cooling, and further at room temperature overnight. The reaction mixture was neutralized with 1N aqueous hydrochloric acid and extracted with ethyl acetate. The extract was washed successively with aqueous sodium bicarbonate and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (0:10→1:1) was concentrated under reduced pressure, and a fraction eluted with ethyl acetate was concentrated under reduced pressure. The residue was dissolved in 2N hydrochloric acid-ethyl acetate solution, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated to give the object product (186 mg).

reactant | (3R,5S)-1-(tert-Butoxycarbonyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylic acid | 0.3 g | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)O | C28H42N4O6
reactant | 4-(hydroxymethyl)-5-methyl-1,3-dioxol-2-one | 0.09 g | OCC=1OC(OC1C)=O | C5H6O4
reactant | toluenesulfonyl chloride | 0.13 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | potassium carbonate | 0.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMA | 3.0 ml | CC(=O)N(C)C | C4H9NO
catalyst | DMAP | 0.014 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (5-methyl-2-oxo-1,3-dioxol-4-yl)methyl(3R,5S)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-3-carboxylate dihydrochloride | 186 mg | Cl.Cl.COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@H]2C[C@H](CNC2)C(=O)OCC=2OC(OC2C)=O)CC(C)C | InChI=1S/C28H38N4O7.2ClH/c1-18(2)16-32(21-13-20(14-29-15-21)27(34)37-17-24-19(3)38-28(35)39-24)26(33)25-30-22-9-5-6-10-23(22)31(25)11-7-8-12-36-4;;/h5-6,9-10,18,20-21,29H,7-8,11-17H2,1-4H3;2*1H/t20-,21+;;/m1../s1
